US06160064
Preparation of Bis(2-(3,5-di-t-butylphenyl)indenyl)zirconium dichloride (Catalyst Q)
2-(3,5-Di-t-butylphenyl)indene (13.8 g, 0.045 mol), and anhydrous diethyl ether (250 mL) were placed in a 1 L three-necked flask under argon. n-Butyllithium (28 mL of a 1.6 M solution in hexanes, 0.045 mol) was added over a thirty minute period at 0° C. The solution was stirred for an additional two hours. Zirconium tetrachloride (5.1 g, 0.022 mol), was added incrementally over a one hour period. The mixture was then stirred overnight. The ethereal solution was chilled to -10° C. and the solids were collected. The solids were taken up in 300 mL of dichloromethane and the residual solids were removed by filtration through celite. The celite was washed with an additional 100 mL of dichloromethane, and the solvents were evaporated to give 11.2 g of product (64%).

reactant | 2-(3,5-Di-t-butylphenyl)indene | 0.045 mol, 13.8 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C=1CC2=CC=CC=C2C1 | C23H28
reactant | n-Butyllithium | C(CCC)[Li]
reactant | Zirconium tetrachloride | 0.022 mol, 5.1 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | Bis(2-(3,5-di-t-butylphenyl)indenyl)zirconium dichloride | 11.2 g, 64% | [Cl-].[Cl-].C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C=1C(C2=CC=CC=C2C1)[Zr+2]C1C(=CC2=CC=CC=C12)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | InChI=1S/2C23H27.2ClH.Zr/c2*1-22(2,3)20-13-19(14-21(15-20)23(4,5)6)18-11-16-9-7-8-10-17(16)12-18;;;/h2*7-15H,1-6H3;2*1H;/q;;;;+2/p-2
